US04775677
[3-Hexyl-2-[(1-naphthalenyl)imino]-4-oxo-5-thiazolidinylidene]acetic acid
Prepared by the method described in Example 16 from N-hexyl-N'-1-naphthalenylthiourea (8.0 g, 28 mmoles) and acetylenedicarboxylic acid (3.4 g, 28 mmoles). Recrystallization from acetonitrile gave the product (7.1 g), mp 144°-145° C.

reactant | N-hexyl-N'-1-naphthalenylthiourea | 28 mmoles, 8.0 g | C(CCCCC)NC(=S)NC1=CC=CC2=CC=CC=C12 | C17H22N2S
reactant | acetylenedicarboxylic acid | 28 mmoles, 3.4 g | C(#CC(=O)O)C(=O)O | C4H2O4
product | [3-Hexyl-2-[(1-naphthalenyl)imino]-4-oxo-5-thiazolidinylidene]acetic acid | 7.1 g | C(CCCCC)N1C(SC(C1=O)=CC(=O)O)=NC1=CC=CC2=CC=CC=C12 | C21H22N2O3S
